US08124610B2
4-(3-tert-butyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)benzenesulfonamide
A solution of 4-(2,5-di-tert-butyl-2H-pyrazol-3-ylamino)-N-thiazol-2-yl-benzenesulfonamide (20 mg, 0.04 mmol, 1.0 equiv) was heated in 1.0 mL of formic acid at 95° C. After 16 h, the reaction mixture was concentrated in vacuo. The residue was purified via automated flash chromatography (4 g SiO2, gradient from chloroform to 12% methanol in chloroform) to afford the product as an off-white solid (9 mg, 60%).

reactant | 4-(2,5-di-tert-butyl-2H-pyrazol-3-ylamino)-N-thiazol-2-yl-benzenesulfonamide | 0.04 mmol, 20 mg, 1.0 equiv | C(C)(C)(C)N1N=C(C=C1NC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)C(C)(C)C | C20H27N5O2S2
solvent | formic acid | 1.0 mL | C(=O)O | CH2O2
product | 4-(3-tert-butyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)benzenesulfonamide | 9 mg, 60% | C(C)(C)(C)C1=NNC(=C1)NC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C16H19N5O2S2
